US05574055
3-[(1RS,2RS,4SR)-4-Bicyclo[2.2.1]-hept-2-yl-phenyl]-5-methoxymethyl-oxazolidin-2-one (R:S=1:1)
A solution of 56 mg of bis-(triphenylphosphine)-palladium (II) diacetate, 0.5 g of (RS)-3-(4-iodophenyl)-5-methoxymethyl-oxazolidin-2-one, 0.16 g of bicyclo[2.2.1]hept-2-ene, 0.5 ml of piperidine, 1 ml of dimethylformamide and 0.15 ml of formic acid was stirred for 3 hours under an argon atmosphere. The reaction mixture was diluted with 50 ml of ethyl acetate and the separated precipitate was removed. The filtrate was extracted twice with 20 ml of water each time, the organic phase was dried over magnesium sulfate and the solvent was distilled off. The brown oil obtained was chromatographed on a 30-fold amount of silica gel with ethyl acetate/hexane (7:3), with 0.43 g of uniform product being obtained after crystallization in ethyl acetate/hexane while cooling. The racemic (1:1) diastereomer mixture melted at 83°-84°.

reactant | (RS)-3-(4-iodophenyl)-5-methoxymethyl-oxazolidin-2-one | 0.5 g | IC1=CC=C(C=C1)N1C(OC(C1)COC)=O | C11H12INO3
reactant | bicyclo[2.2.1]hept-2-ene | 0.16 g | C12C=CC(CC1)C2 | C7H10
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis-(triphenylphosphine)-palladium (II) diacetate | 56 mg | CC(=O)O.CC(=O)O.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | formic acid | 0.15 ml | C(=O)O | CH2O2
product | 3-[(1RS,2RS,4SR)-4-Bicyclo[2.2.1]-hept-2-yl-phenyl]-5-methoxymethyl-oxazolidin-2-one | C12C(CC(CC1)C2)C2=CC=C(C=C2)N2C(OC(C2)COC)=O | C18H23NO3
